US05827856
5-Chloro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (6.86 g, 0.030 mol) and thiourea (2.28 g, 0.030 mol) were dissolved in ethanol (50 ml) and heated at reflux temperature for 2.5 h. After cooling to room temperature, 2 N sodium hydroxide (20 ml) was added and the mixture was subsequently heated to reflux temperature under a nitrogen atmosphere for 2 h. The reaction mixture was cooled to room temperature, made acidic by addition of a slight excess of sulfuric acid and extracted with diethyl ether (50 ml). The organic phase was washed with water (50 ml) and brine (30 ml). Evaporation in vacuo afforded 6.78 g (100%) of 10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-thiol as an oil . The crude product was directly used in the next step without further purification.

reactant | 5-Chloro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 0.030 mol, 6.86 g | ClC1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C15H13Cl
reactant | thiourea | 0.030 mol, 2.28 g | NC(=S)N | CH4N2S
reactant | sodium hydroxide | 2 N, 20 ml | [OH-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-thiol | 6.78 g, 100% | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)S | C15H14S
